US07553833B2
In a manner similar to the method described in example 2 (method B), rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-phenylspiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (150.0 mg, 0.34 mmole) was reacted with NH2OH—HCl (119.5 mg, 1.72 mmol), NaOH (68.8 mg, 1.72 mmole) in EtOH-water (3/2, 10 mL) at refluxing for 2 hrs, followed by reacting with p-toluenesulfonyl chloride (133.1 mg, 0.70 mmol) in dichloromethane (10 mL) at room temperature for 2 hrs, and heating under microwave irradiation at 90° C. for 20 min. After diluted with AcOEt the mixture was washed with water, dried over Na2SO4 and concentrated. The residue was purified by chiral column chromatography to give (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-phenyl-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (19.4 mg): HRMS (ES+) m/z Calcd for C25H20Cl2N2O2+H [(M+H)+]: 451.0975, Found: 451.0974; (3R,4S,5S)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-phenyl-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (20.1 mg): HRMS (ES+) m/z Calcd for C25H20Cl2N2O2+H [(M+H)+]: 451.0975, Found: 451.0974; (3S,4R,5R)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-phenyl-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (20.5 mg): HRMS (ES+) m/z Calcd for C25H20Cl2N2O2+H [(M+H)+]: 451.0975. Found: 451.0974; (3S,4R,5R)-6-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-phenyl-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (21.6 mg): HRMS (ES+) m/z Calcd for C25H20Cl2N2O2+H [(M+H)+]: 451.0975. Found: 451.0974.

reactant | rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-phenylspiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.34 mmole, 150.0 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3C3=CC=CC=C3)=O)C3=CC(=CC=C3)Cl | C25H19Cl2NO2
reactant | NH2OH—HCl | 1.72 mmol, 119.5 mg | NO.Cl
reactant | NaOH | 1.72 mmole, 68.8 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 0.70 mmol, 133.1 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | EtOH water | 10 mL | CCO.O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-phenyl-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 19.4 mg | ClC1=CC=C2[C@@]3(C(NC2=C1)=O)[C@H](CNC(C[C@H]3C3=CC=CC=C3)=O)C3=CC(=CC=C3)Cl | C25H20Cl2N2O2
